US08492395B2
To a stirred suspension of 3-(6-aminomethyl-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione hydrogen chloride (0.49 g, 1.4 mmol) in acetonitrile (10 mL), was added 4-trifluoromethoxy-benzoyl chloride (0.34 mL, 2.2 mmol) and N,N-diisopropyl ethylamine (0.63 mL, 3.6 mmol). The mixture was stirred at room temperature for one hour. The solvent was evaporated, and the residue was purified by flash column chromatography (Silica gel, methanol/methylene chloride 4%/96%) to give N-[3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-6-ylmethyl]-4-trifluoromethoxy-benzamide as an off-white solid (500 mg, 71% yield); HPLC, Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 10/90 CH3CN/0.1% H3PO4, gradient to 95/5 in 5 min, kept for 5 min, 6.40 min (99.5%); mp, 165-167° C.; 1HNMR (DMSO-d6) 2.15-2.20 (m, 1H, CHH), 2.56-2.88 (m, 6H, CHCH2, CH3), 4.60 (d, J=5 Hz, 2H, CH2NH), 5.26 (dd, J=6, 11 Hz, 1H, CH), 7.458-8.04 (m, 7H, Ar), 9.28 (t, J=5 Hz, 1H, CH2NH), 11.02 (s, 1H, NH); 13C NMR (DMSO-d6) δ 20.90, 23.40, 30.60, 42.35, 56.53, 119.93 (q, JC-F=257 Hz), 120.01, 120.67, 123.87, 126.62, 129.56, 133.19, 134.17, 134.07, 137.97, 145.83, 150.35, 154.61, 160.43, 165.06, 169.45, 172.59. LCMS MH=489; Anal Calcd For C23H19N4O5F3+1.1H2O: C, 54.36; H. 4.20; N, 11.02; F, 11.21. Found: C, 54.40; H, 3.89; N, 10.67; F, 11.06.

reactant | 3-(6-aminomethyl-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione hydrogen chloride | 1.4 mmol, 0.49 g | Cl.NCC=1C=C2C(N(C(=NC2=CC1)C)C1C(NC(CC1)=O)=O)=O
reactant | 4-trifluoromethoxy-benzoyl chloride | 2.2 mmol, 0.34 mL | FC(OC1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O2
reactant | N,N-diisopropyl ethylamine | 3.6 mmol, 0.63 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | N-[3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-6-ylmethyl]-4-trifluoromethoxy-benzamide | 500 mg, 71% yield | O=C1NC(CCC1N1C(=NC2=CC=C(C=C2C1=O)CNC(C1=CC=C(C=C1)OC(F)(F)F)=O)C)=O | C23H19F3N4O5
